US07652022B2
Stage 1.1: (4-(pyridin-4-yl-oxy)-phenyl-amine)
A solution of 4-aminophenol (15 g, 0.135 mol), 4-chloropyridine hydrochloride (22.5 g, 0.148 mol), and KOtBu (45.8 g, 0.404 mol) in DMPU (208 ml) and DMF (52 ml) is stirred at 100° C. for 24 h, cooled to rt, poured into H2O (0.6 L), and extracted with AcOEt (150 ml, 6×). The combined organic phases are washed with H2O (100 ml, 2×), brine (100 ml, 2×), dried (Na2SO4), concentrated under reduced pressure, and flash chromatographed (silica gel, 4.5×25 cm; AcOEt/hexane=1:9→3:7) to give the title compound of Stage 1.1 as a colorless solid: M+H=187.2; 1H-NMR (400 MHz, DMSO-d6): 8.37 (d, 6.5 Hz, 2H, pyridinyl), 6.79 (d, 9.5 Hz, 2H, phenyl), 6.78 (d, 9.5 Hz, 2H, pyridinyl) 5.12 (s, 2H, NH2); Rf (AcOEt/CH2Cl2=3:7): 0.23; m.p.=165.8-166.6° C.

reactant | 4-aminophenol | 0.135 mol, 15 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 4-chloropyridine hydrochloride | 0.148 mol, 22.5 g | Cl.ClC1=CC=NC=C1
reactant | KOtBu | 0.404 mol, 45.8 g | CC(C)(C)[O-].[K+]
reactant | H2O | 0.6 L | O | H2O
solvent | DMPU | 208 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | DMF | 52 ml | CN(C)C=O | C3H7NO
product | 4-(pyridin-4-yl-oxy)-phenyl-amine | N1=CC=C(C=C1)OC1=CC=C(C=C1)N | C11H10N2O
